US08455528B2
2-Bromo-1-[4-(methylsulfonyl)phenyl]ethanone (2.4 g, 8.7 mmol) was added over a period of 30 min to the suspension of sodium acetate (0.7 g, 8.7 mmol) in DMF (25 mL) at RT. The mixture was stirred at 25° C. for 16 h, and was partitioned between H2O (100 mL) and EtOAc/hexane (20/100 mL). The organic layer was separated and washed with water (3×100 mL), dried with anhydrous Na2SO4, and concentrated to give 2-[4-(methylsulfonyl)phenyl]-2-oxoethyl acetate. LCMS: m/e=256 [M+1]+.

reactant | 2-Bromo-1-[4-(methylsulfonyl)phenyl]ethanone | 8.7 mmol, 2.4 g | BrCC(=O)C1=CC=C(C=C1)S(=O)(=O)C | C9H9BrO3S
reactant | sodium acetate | 8.7 mmol, 0.7 g | C(C)(=O)[O-].[Na+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 2-[4-(methylsulfonyl)phenyl]-2-oxoethyl acetate | C(C)(=O)OCC(=O)C1=CC=C(C=C1)S(=O)(=O)C | C11H12O5S
